US07300931B2
Synthesis of 2-Fluoro-biphenyl-4-carbaldehyde:
4-Bromo-2-fluoro-biphenyl (2 gm, 8 mmole) was dissolved in 20 ml of anhydrous tetrahydrofuran, THF, cooled to −78° C. under argon (Ar), n-Butyl lithium 2.5 M (3.5 ml, 8.8 mmole) was added drop wise over 10 min, and was stirred for additional 1 hr, DMF anhydrous (0.68 ml, 8.8 mmole) was then added, stirred for additional 1 hr, then warmed to room temperature over 4 hr, It was then quenched with water, extracted with ether, ether was dried, evaporated, the produced compound was purified using 9:1 hexane/ethyl acetate, to produce white solid (1 gm, 62.5%); H1-NMR INOVA-500 (CDCl3) δ 7.416-7.495 (m, 3H), 7.581-7.661 (m, 4H), 7.723 (d, J=8.0 Hz, 1H), 9.991 (s, 1H).

reactant | 4-Bromo-2-fluoro-biphenyl | 8 mmole, 2 gm | BrC1=CC(=C(C=C1)C1=CC=CC=C1)F | C12H8BrF
reactant | n-Butyl lithium | 8.8 mmole, 2.5 M, 3.5 ml | C(CCC)[Li]
reactant | DMF | 8.8 mmole, 0.68 ml | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 2-Fluoro-biphenyl-4-carbaldehyde | 1 gm, 62.5% | FC1=C(C=CC(=C1)C=O)C1=CC=CC=C1 | C13H9FO
